US07695912B1
A mixture of p-bromonitrobenzene (2.02 g, 10 mmol), bis(triphenylphosphine)palladium(II) chloride (0.2 g, 0.3 mmol), and copper(1) iodide (0.05 g, 0.3 mmol) in 40 ml of N,N-diisopropylamine was degassed by freeze/pump/thaw technique (three times). Trimethylsilylacetylene (1.2 g, 12 mmol) was added and the mixture was refluxed for 12 hours. After removal of amine by rotary evaporation, the residue was dissolved in CH2Cl2 and washed with water. The organic layer was dried (Na2SO4), filtered, and rotary evaporated. The residue was purified by column chromatography (EtOAc/hexanes, 1:10) to afford 4-(trimethylsilylethynyl)nitrobenzene (1.53 g, 70%). (Procedure adapted from Takahashi, S; Kuroyama, Y; Sonogashira, K; Hagihara, N. Synthesis, 1980, 627.)

reactant | p-bromonitrobenzene | 10 mmol, 2.02 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | Trimethylsilylacetylene | 12 mmol, 1.2 g | C[Si](C)(C)C#C | C5H10Si
solvent | N,N-diisopropylamine | 40 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.3 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(1) iodide | 0.3 mmol, 0.05 g | [Cu]I
product | 4-(trimethylsilylethynyl)nitrobenzene | 1.53 g, 70% | C[Si](C)(C)C#CC1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO2Si
